Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
Lung mass biopsy
Whole brain radiation

 
History of Present Illness:
___ year-old right-handed woman with history of HTN, chronic
tobacco use who presents with 3 day history of headaches, found
to have abnormal CT head at ___ with multiple brain
masses. Prior to this she felt well. She denies malaise, fevers,
chills, weight loss or shortness of breath. She does note that
she has had dysuria for three weeks. She has mild nausea when 
her
headache is severe but does not have emesis. She does not report
diarrhea or constipation. She was given decadron 10 mg IV Keppra
1 g IV/ potassium 10 meq at BIDP
 .
In ER: (Triage Vitals:4 |99.2 |70 |146/70 |16 |94% RA  ) 
Meds Given: Dexamethasone
Nicotine patch
Fluids given:None
Radiology Studies: Imaging at ___
consults called: Neurology and neurosurgery
.
PAIN SCALE: ___ retro-orbital headache. It feels like her
sinuses.
REVIEW OF SYSTEMS:
CONSTITUTIONAL:  As per HPI
HEENT:  [X] All normal- no slurred speech or visual changes
RESPIRATORY:  [X] All normal
CARDIAC:  [X] All normal
GI:  As per HPI
GU:  [+] dysuria
SKIN:  [X] All normal
MUSCULOSKELETAL:  [X] All normal
NEURO:  [X] All normal
ENDOCRINE:  [X] All normal
HEME/LYMPH:  [X]  All normal
PSYCH:  [X] All normal
All other systems negative except as noted above
 
Past Medical History:
HTN
-Allergic rhinitis
-History of multiple sinus infections 
 
Social History:
___
Family History:
Her father is still alive with minor illness such as gout. Her 
mother died at ___ from an MI. No h/o cancer.
 
Physical Exam:
ADMISSION EXAM
--------------
Vitals:  98.0 PO 150 / 75 89 18 92 Ra 
CONS: NAD, comfortable appearing  
HEENT: ncat anicteric MMM 
No nasal discharge   
CV: s1s2 rrr soft SEM at ___ no m/r/g  
RESP: Diminished breath sounds throughout but overall clear  
GI: +bs, soft, NT, ND, no guarding or rebound  
GU:  no CVAT b/l
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent,
A and O x 3. Able to MOYB. FTN intact- no dysmetria, able to
perform rapid alternative movements,  normal gait - walks
unassisted
PSYCH: calm, cooperative, pleasant  
LAD: No cervical LAD

DISCHARGE EXAM
-----------------
Vitals: 98.1 ___ on RA
GEN: NAD, comfortable appearing  
HEENT: ncat anicteric MMM 
No nasal discharge   
CV: s1s2 rrr soft SEM at ___ no m/r/g  
RESP: Diminished breath sounds throughout but overall clear  
GI: +bs, soft, NT, ND, no guarding or rebound  
GU:  no CVAT b/l
MSK:no c/c/e 2+pulses  
SKIN: no rash  
NEURO: face symmetric speech fluent,
A and O x 3. Able to MOYB. FTN intact- no dysmetria, able to
perform rapid alternative movements,  normal gait - walks
unassisted
PSYCH: calm, cooperative, pleasant  
LAD: No cervical LAD
 
Pertinent Results:
ADMISSION LABS
--------------
___ 10:00PM BLOOD WBC-9.2 RBC-4.20 Hgb-12.4 Hct-37.3 MCV-89 
MCH-29.5 MCHC-33.2 RDW-12.2 RDWSD-39.8 Plt ___
___ 10:00PM BLOOD Glucose-140* UreaN-12 Creat-0.5 Na-143 
K-3.1* Cl-104 HCO3-27 AnGap-15
___ 10:00PM BLOOD Calcium-9.1 Phos-2.4* Mg-2.1

IMAGING
-------
CT chest ___:
1. 2.2 cm right upper lobe lung mass with ipsilateral hilar 
lymphadenopathy concerning for malignancy. 
2. Pulmonary nodules in the right upper lobe, right lower lobe, 
and left lower lobe measuring up to 6 mm as described above. 
3.  Subsegmental right lower lobe pulmonary embolism is likely 
subacute.  No pulmonary arterial dilation to suggest pulmonary 
hypertension or evidence of right heart strain. 
4. Findings suggestive of airway inflammation due to smoking. 
5. A few axillary and mediastinal lymph nodes are not enlarged 
by size, but appear to demonstrate hyperenhancement.  Attention 
on follow-up is suggested. 

MRI brain ___:
1.  Numerous infra and supratentorial enhancing lesions 
throughout the brain bilaterally, concerning for widespread 
metastatic disease, particularly considering the results of the 
recent chest CT. 
  
2.  Notably, the largest mass in the right frontal lobe causes 7 
mm leftward shift of normally midline structures.  Effacement of 
the perimesencephalic cisterns suggests impending uncal 
herniation. 

Head CT:
There is a 15 mm rounded mass within the right frontal lobe with
surrounding edema measuring 6 x 5 x 5.7 cm. There is partial
effacement of the right frontal horn. There is midline shift 
from
right to left measuring 5 mm. There is also edema in the
posterior left occipital lobe with a 7 mm mass identified. There
is also some edema in the right posterior parietal lobe near the
vertex with a vague, possible mass measuring 7 mm. Additional
edema seen within the right temporal lobe.
The paranasal sinuses and mastoid air cells are clear. 
The orbits are unremarkable. 
The surrounding soft tissues and osseous structures are intact.
Impression:
There are multiple masses with surrounding edema bilaterally. 
The
largest mass is seen within the right frontal lobe measuring 15
mm in size. There is an associated right to left midline shift
measuring 5 mm. Basilar cisterns are patent. MRI of the brain
with and without contrast may offer additional detail.

DISCHARGE LABS
--------------
___ 07:30AM BLOOD WBC-8.0 RBC-4.17 Hgb-12.6 Hct-37.0 MCV-89 
MCH-30.2 MCHC-34.1 RDW-12.2 RDWSD-40.0 Plt ___
___ 07:30AM BLOOD Glucose-216* UreaN-29* Creat-0.5 Na-143 
K-3.0* Cl-103 HCO3-25 AnGap-18
___ 07:30AM BLOOD Calcium-8.7 Phos-3.0 Mg-2.___ year old with history of hypertension who presents with a 
headache and is found to have several brain masses with 
surrounding edema and midline shift, as well as lung mass and 
subacute pulmonary embolism. 

# Malignant brain metastases
# Cerebral edema
# Midline shift
# Headache: concerning for metastatic cancer with probable lung 
primary.  Headache improved over course of admission, vision 
blurriness noted, no other neurologic symptoms reported.  MRI 
brain showed midline shift and potential impending uncal 
herniation.  Neuro-Oncology was consulted and recommended 
dexamethasone and levatiracetam, with plans to wean 
dexamethasone.  She was placed on TMP/SMX for PJP prophylaxis.  
Radiation Oncology was consulted and started whole brain 
radiation during admission.  Oncology was consulted as well and 
asking them to evaluate patient now that more data is coming 
through.  Social Work was consulted for coping and following 
patient.  Oncology is recommending one-time consultation in 
___ after discharge with further care likely to occur in 
___.  She will undergo radiation treatments as an 
outpatient, which she has been notified of.  Neuro-Oncology 
should follow up the patient as well, and patient will undergo 
dexamethasone taper (see Dr. ___ initial note), discharged on 
4mg BID dexamethasone until f/u with Radiation Oncology/Neuro 
Onc.  Also discharged with 1000mg Keppra for seizure ppx.

# Likely lung cancer: noted on CT chest.  IP consulted and 
biopsy pending.  Oncology, Radiation Oncology also consulted as 
above, with follow-up plan as above.  ___ with Oncology 
was arranging an appointment.

# Leukocytosis: likely related to steroid administration, 
trended.  No infectious symptoms noted.

# Subacute pulmonary embolism: noted on CT torso.  Started on 
60mg BID lovenox on discharge.  Pt able to self-administer after 
teaching

# Hypertension: continued diltiazem

# Anxiety: pt started on 0.5mg ativan prn anxiety as she was 
feeling very anxious about her recent diagnosis.

TRANSITIONS OF CARE
-------------------
# Follow-up: Oncology is recommending one-time consultation in 
___ after discharge with further care likely to occur in 
___.  She will undergo radiation treatments as an 
outpatient, which she has been notified of.  Neuro-Oncology will 
follow up the patient as well, and patient will undergo 
dexamethasone taper 
 
# Code status: Full, confirmed 

Greater than 30 minutes spent on discharge counseling and 
coordination of care

 
Medications on Admission:
none
 
Discharge Medications:
1.  Dexamethasone 4 mg PO Q12H 
RX *dexamethasone 4 mg 1 tablet(s) by mouth every 12 hours Disp 
#*30 Tablet Refills:*0 
2.  Enoxaparin Sodium 60 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 60 mg/0.6 mL 60 mg subQ every twelve (12) hours 
Disp #*14 Syringe Refills:*0 
3.  LevETIRAcetam 1000 mg PO Q12H 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth every 
12 hours Disp #*60 Tablet Refills:*0 
4.  LORazepam 0.5 mg PO Q8H:PRN anxiety 
RX *lorazepam [Ativan] 0.5 mg ___ tabs by mouth every 6 hours 
Disp #*20 Tablet Refills:*0 
5.  Nicotine Patch 21 mg TD DAILY:PRN Tobacco withdrawal 
RX *nicotine [Nicoderm CQ] 21 mg/24 hour apply 1 patch daily 
Disp #*30 Patch Refills:*2 
6.  Diltiazem Extended-Release 360 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Malignant brain masses
Lung mass
Pulmonary embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came for further evaluation of headache.  You were found to 
have several masses in your brain, and ultimately were found to 
have a mass in your lung as well.  In addition, a blood clot was 
found in your lung, for which you were put on a blood thinner.  
You will continue to take a blood thinner called lovenox when 
you go home.

You will follow-up with Radiation Oncology and 
Hematology/Oncology after you are discharged.

It was as pleasure taking care of you at ___.
 
Followup Instructions:
___